US05574178
5-Acetoxy-2-[2-(1,3-dioxa-2-cyclopentyl)ethyl]-4,6-di-tert-butyl-2-methyl-2,3-dihydrobenzofuran (17.3 g) was dissolved in 80% acetic acid (150 ml) and the solution was heated under reflux for 1 h. After cooling the solution, the acetic acid was distilled off under vacuum and, after addition of water, the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, then dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (25% ethyl acetate in n-hexane) to afford 5-acetoxy-4,6-di-tert-butyl-2-(2-formylethyl)-2-methyl-2,3-dihydrobenzofuran quantitatively (15.53 g) as a colorless oil.

reactant | 5-Acetoxy-2-[2-(1,3-dioxa-2-cyclopentyl)ethyl]-4,6-di-tert-butyl-2-methyl-2,3-dihydrobenzofuran | 17.3 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CCC2OCCO2)C1C(C)(C)C)C(C)(C)C | C24H36O5
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-acetoxy-4,6-di-tert-butyl-2-(2-formylethyl)-2-methyl-2,3-dihydrobenzofuran | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CCC=O)C1C(C)(C)C)C(C)(C)C | C22H32O4
